US05428168
3-Amino-1-propanol (4.5 g, 60.0 mmol) was added slowly to a mixture of 4-chloro-3-nitropyridine (8.0 g, 50.5 mmol) and sodium hydrogen carbonate (4.2 g, 50.0 mmol) in ethanol (200 ml). The mixture was stirred for 3 h at ambient temperature and the solvent removed under reduced pressure. Saturated aqueous sodium hydrogen carbonate (50 ml) was added to the residue, which was extracted with ethyl acetate (3×200 ml). The combined organics were dried over anhydrous sodium sulphate, filtered and evaporated. Crystallisation from ethyl acetate gave 4-(3-hydroxypropylamino)-3-nitropyridine (4.3 g, 43%) as an orange crystalline solid.

reactant | 3-Amino-1-propanol | 60.0 mmol, 4.5 g | NCCCO | C3H9NO
reactant | 4-chloro-3-nitropyridine | 50.5 mmol, 8.0 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium hydrogen carbonate | 50.0 mmol, 4.2 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(3-hydroxypropylamino)-3-nitropyridine | 4.3 g, 43% | OCCCNC1=C(C=NC=C1)[N+](=O)[O-] | C8H11N3O3
